US08232286B2
IMIDAZOL-1-YL(1-METHYL-1H-IMIDAZOL-4-YL)-METHANONE
39.5 g (0.31 mol) 1-methyl-1H-imidazol-4-carboxylic acid are placed in 400 ml dichloromethane and 115.6 g (0.71 mol) carbonyldiimidazole are added. The suspension is stirred for 3 hours at ambient temperature, then extracted with saturated sodium chloride solution. The aqueous phase is extracted with dichloromethane, the combined organic phases are dried and evaporated to dryness. Yield: 60.6 g

reactant | 1-methyl-1H-imidazol-4-carboxylic acid | 0.31 mol, 39.5 g | CN1C=NC(=C1)C(=O)O | C5H6N2O2
reactant | carbonyldiimidazole | 0.71 mol, 115.6 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | IMIDAZOL-1-YL(1-METHYL-1H-IMIDAZOL-4-YL)-METHANONE | N1(C=NC=C1)C(=O)C=1N=CN(C1)C | C8H8N4O
